US08426442B2
iv) 1-Methyl-1H-pyrazole-3-sulfonic acid (2-acetyl-1,2,3,4-tetrahydro-isoquinolin-6-yl)-benzyl-amide
To a stirred solution of 1-methyl-1H-pyrazole-3-sulfonic acid benzyl-(1,2,3,4-tetrahydro-isoquinolin-6-yl)-amide (24 mg, 0.06 mmol) and acetic acid (3.6 μl, 0.06 mmol) in dry acetonitrile (2 ml) was added 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (24 mg, 0.06 mmol), then diisopropylethylamine (33 μl, 0.20 mmol) and the solution was stirred at 50° C. for 16 hrs. The reaction mixture was concentrated in vacuo and the residue purified using preparative HPLC to afford the title compound as a white solid (17 mg, 67% yield), HPLC retention time 3.97 min. Mass spectrum (ES+) m/z 425 (M+H).

reactant | 1-methyl-1H-pyrazole-3-sulfonic acid benzyl-(1,2,3,4-tetrahydro-isoquinolin-6-yl)-amide | 0.06 mmol, 24 mg | C(C1=CC=CC=C1)N(S(=O)(=O)C1=NN(C=C1)C)C=1C=C2CCNCC2=CC1 | C20H22N4O2S
reactant | acetic acid | 0.06 mmol, 3.6 μl | C(C)(=O)O | C2H4O2
reactant | 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.06 mmol, 24 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 0.20 mmol, 33 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-Methyl-1H-pyrazole-3-sulfonic acid (2-acetyl-1,2,3,4-tetrahydro-isoquinolin-6-yl)-benzyl-amide | 17 mg, 67% yield | C(C)(=O)N1CC2=CC=C(C=C2CC1)N(S(=O)(=O)C1=NN(C=C1)C)CC1=CC=CC=C1 | C22H24N4O3S
